US07618978B2
3-Ethylcarbamoyl-5-(methyl-propylcarbamoyl)-benzoic acid ethyl ester
Stir a solution of 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester (146 mg, 0.5 mmol), 1-hydroxybenzotriazole (74 mg, 0.55 mmol), 1-(3-dimethylamninopropyl)-3-ethylcarbodiimide hydrochloride (110 mg, 0.55 mmol), ethylamine (2 N in THF, 0.275 mL, 0.55 mmol) in 0.75 mL DMF at room temperature overnight. Dilute with dichloromethane (15 mL) and wash with water (5 mL), 0.1 N aqueous citric acid (5 mL), saturated aqueous sodium bicarbonate (5 mL), and saturated aqueous sodium chloride (5 mL). Dry (magnesium sulfate) and concentrate to give the title compound (157 mg, 100%).

reactant | 5-(methyl-propylcarbamoyl)-isophthalic acid monoethyl ester | 0.5 mmol, 146 mg | C(C)OC(C1=CC(C(=O)O)=CC(=C1)C(N(CCC)C)=O)=O | C15H19NO5
reactant | 1-hydroxybenzotriazole | 0.55 mmol, 74 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | ethylamine | 0.55 mmol, 2 N, 0.275 mL | C(C)N | C2H7N
solvent | DMF | 0.75 mL | CN(C)C=O | C3H7NO
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-Ethylcarbamoyl-5-(methyl-propylcarbamoyl)-benzoic acid ethyl ester | 157 mg, 100% | C(C)OC(C1=CC(=CC(=C1)C(N(CCC)C)=O)C(NCC)=O)=O | C17H24N2O4
